data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-c2ccc(C(F)(F)F)cc2_2-S(=O)(=O)C_3-CCCCC","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(c2ccc(C(F)(F)F)cc2)(S(=O)(=O)C))(CCCCC)"],"products_smiles": ["C(=C(c2ccc(C(F)(F)F)cc2)(S(=O)(=O)C))C(CCCCC)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(c2ccc(C(F)(F)F)cc2)(S(=O)(=O)C))(CCCCC)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(c2ccc(C(F)(F)F)cc2)(S(=O)(=O)C))(CCCCC)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(c2ccc(C(F)(F)F)cc2)(S(=O)(=O)C))(CCCCC)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(c2ccc(C(F)(F)F)cc2)(S(=O)(=O)C))C(CCCCC)","rationale": "The carbene undergoes a 1,2-shift of c2ccc(C(F)(F)F)cc2 or S(=O)(=O)C to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-111_1-CC_2-C(F)(F)F_3-C(F)(F)F_4-CCCC(C)C_5-CCCC(C)C_6-CC_7-C","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(CCCC(C)C)CCCC(C)C)(C(F)(F)F)C(CC)(C(F)(F)F)[Si](C)(C)C","C(=O)(CC)C","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(CCCC(C)C)CCCC(C)C)(C(F)(F)F)C(CC)(C(F)(F)F)C(O)(CC)C"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(CC)C","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC)(C(F)(F)F)[C+](C(F)(F)F)C(CCCC(C)C)(CCCC(C)C)C(O[Ti](Cl)(Cl)Cl)(CC)C","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(CCCC(C)C)CCCC(C)C)(C(F)(F)F)C(CC)(C(F)(F)F)C(O[Ti](Cl)(Cl)Cl)(CC)C","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(CCCC(C)C)CCCC(C)C)(C(F)(F)F)C(CC)(C(F)(F)F)C(O)(CC)C","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
